US06723722B1
2-[1-(tert-Butoxycarbonyl)-4-piperidinyl]-N-[4-(6-chloronaphthalene-2-sulfonyl)-2-oxo-1-piperazinyl]acetamide
A solution of N-(4-benzyloxycarbonyl-2-oxo-1-piperazinyl)-2-[1-(tert-butoxycarbonyl)-4-piperidinyl]acetamide (840 mg) and 10% Pd/C (500 mg) in methanol (35 ml) was stirred at room temperature for 15 hours under a hydrogen atmosphere. The catalyst was filtered off and the reaction mixture was concentrated to obtain N-(2-oxo-1-piperazinyl)-2-[1-(tert-butoxycarbonyl)-4-piperidinyl]acetamide as a colorless syrup. A solution of the resultant 2-[1-(tert-butoxycarbonyl)-4-piperidinyl]-N-(2-oxo-1-piperazinyl)acetamide in ethyl acetate (40 ml) and a 10% aqueous solution of sodium carbonate (40 ml) was combined at 0° C. with 6-chloronaphthalene-2-sulfonyl chloride (470 mg) and stirred at room temperature for 30 minutes. The organic phase was separated, washed with brine, dried and concentrated to obtain a residue, which was purified by a column chromatography on a silica gel (ethyl acetate) and crystallized from ethyl acetate to obtain the title compound (420 mg) as colorless crystals.

reactant | 2-[1-(tert-butoxycarbonyl)-4-piperidinyl]-N-(2-oxo-1-piperazinyl)acetamide | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(=O)NN1C(CNCC1)=O | C16H28N4O4
reactant | sodium carbonate | 40 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 6-chloronaphthalene-2-sulfonyl chloride | 470 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)Cl | C10H6Cl2O2S
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 2-[1-(tert-Butoxycarbonyl)-4-piperidinyl]-N-[4-(6-chloronaphthalene-2-sulfonyl)-2-oxo-1-piperazinyl]acetamide | 420 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(=O)NN1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | C26H33ClN4O6S
